data/mechanisms/records/IMS8-EQ8.79.json
{"mechanism_id": "IMS8-EQ8.79", "species": [{"species_id": "ketone_molecular_ion", "mapped_smiles": "[CH3:7][CH2:6][CH2:5][CH:4]([CH2:8][CH3:9])[C:1](=[O+:2])[CH3:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "gamma_distonic_ion", "mapped_smiles": "[CH3:7][CH:6][CH2:5][CH:4]([CH2:8][CH3:9])[C:1](=[OH+:2])[CH3:3]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "propene_neutral", "mapped_smiles": "[CH3:7][CH:6]=[CH2:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "alpha_distonic_enol_ion", "mapped_smiles": "[CH:4]([CH2:8][CH3:9])[C:1](=[OH+:2])[CH3:3]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyl_radical_Rprime", "mapped_smiles": "[CH3:9]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "conjugated_oxocarbenium", "mapped_smiles": "[CH2:8]=[CH:4][C:1](=[OH+:2])[CH3:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_molecular_ion", "species_ids": ["ketone_molecular_ion"]}, {"state_id": "state_gamma_distonic", "species_ids": ["gamma_distonic_ion"]}, {"state_id": "state_after_alpha", "species_ids": ["propene_neutral", "alpha_distonic_enol_ion"]}, {"state_id": "state_products", "species_ids": ["propene_neutral", "methyl_radical_Rprime", "conjugated_oxocarbenium"]}], "steps": [{"step_id": "step_rH_gamma", "from_state": "state_molecular_ion", "to_state": "state_gamma_distonic", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": true}, {"step_id": "step_alpha_beta_cleavage", "from_state": "state_gamma_distonic", "to_state": "state_after_alpha", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_third_bond_cleavage", "from_state": "state_after_alpha", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [4, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [4, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "atom", "atom_maps": [9]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rH_8_79", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_gamma", "support_type": "textbook_proposed", "locator": {"page": 196, "equation": "8.79", "figure": null, "panel": null, "section": "Chapter 8, Detailed Mechanisms of Ion Fragmentation -- hydrogen rearrangements; the paragraph above the scheme discusses delta-H / epsilon-H transfer in methyl alkanoates (Eq. 8.78)"}, "confidence": 0.85, "curator_note": "First of the two labelled straight arrows of Equation 8.79 ('rH'). DRAWN FIGURE: the reactant is drawn ONCE, as a six-membered cyclic transfer array H...O=C(CH3)-CHR''-CH2-CH2(R), with '+.' printed on the carbonyl oxygen, an explicit H on the gamma carbon, an 'R' -like plain bond leaving the gamma carbon to the left, and a CH2-R' branch hanging off the alpha carbon. The page prints TWO reaction arrows over one arc array ('rH' then 'alpha') but draws NO structure between them, so the distonic intermediate encoded here is curator-supplied to carry the book's own two labelled steps. ARC COUNT: the reactant carries FOUR single-barb (fishhook) arcs in total; the two belonging to THIS step are <i> from the odd electron printed on the carbonyl O curving left to the gamma H, and <ii> from the gamma C-H bond curving right into the forming O-H bond. The third hook of a complete H homolysis (the other C-H electron staying on the gamma carbon) is NOT drawn; it is implicit and is exactly what the single encoded move represents. ENCODING NOTE: the migrating H cannot be atom-mapped (RDKit folds a mapped explicit H into implicit valence, verified in the project container), so the one encoded move is the net heavy-atom consequence of those hooks -- the odd electron moves from O(2) to the gamma carbon C(6). INSTANTIATION: R = CH3 and R' = CH3, i.e. 3-ethylhexan-2-one. R = CH3 (rather than H) was chosen deliberately: the cross-linked MOD rule IMS_4_33_rH requires a carbon substituent on the gamma carbon, and it does not match an R = H instantiation."}, {"evidence_id": "ev_step_alpha_8_79", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_beta_cleavage", "support_type": "textbook_proposed", "locator": {"page": 196, "equation": "8.79", "figure": null, "panel": null, "section": "Chapter 8, Detailed Mechanisms of Ion Fragmentation -- hydrogen rearrangements"}, "confidence": 0.85, "curator_note": "Second labelled arrow of Equation 8.79 ('alpha'): radical-site cleavage of the C(alpha)-C(beta) bond of the distonic ion, expelling the alkene drawn as 'R-CH=CH2' and leaving the drawn distonic enol ion (radical dot on the alpha carbon, bare '+' with H on the oxygen). Book draws 2 arc(s) for this half of the array; moves <1,2> are drawn -- <1> the arc that ends on the C(gamma)-C(beta) bond and makes it the new pi bond (the page draws its tail on the gamma C-H bond of the un-rearranged reactant, i.e. it is the electron the gamma carbon keeps after the H leaves), and <2> the arc from the C(alpha)-C(beta) bond into that same forming pi bond -- while move <3> (the second C(alpha)-C(beta) electron returning to the alpha carbon) is an implicit homolysis hook required for electron balance and is not drawn on the page, although the middle structure already prints the radical dot on that carbon. NO PRINTED NUMBERS anywhere in Equation 8.79: generic R/R' scheme, no m/z and no abundance, so detected=false, peak status 'inferred' and no relative_intensity; m/z 86.0726 is computed from the curator's R = R' = CH3 instantiation, not a book datum."}, {"evidence_id": "ev_step_third_cleavage_8_79", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_third_bond_cleavage", "support_type": "textbook_proposed", "locator": {"page": 196, "equation": "8.79", "figure": null, "panel": null, "section": "Chapter 8, Detailed Mechanisms of Ion Fragmentation -- hydrogen rearrangements"}, "confidence": 0.85, "curator_note": "Third (right-hand, unlabelled) arrow of Equation 8.79 -- the step the running text calls 'a third bond cleavage not involving H rearrangement': 'The RHC=CH-CR'=Y+ product can also be formed by a third bond cleavage not involving H rearrangement (Equation 8.79)'. The radical site now sits on the alpha carbon; the bond broken is the one between the CH2 branch and R', so the new pi bond forms between the alpha carbon and that CH2 and R'. departs, giving the conjugated even-electron oxocarbenium CH2=CH-C(CH3)=O+H. Book draws 2 arc(s) on the middle structure; moves <1,2> are drawn -- <1> from the radical dot on the alpha carbon into the forming C(alpha)=CH2 bond, <2> from the CH2-R' bond into that same forming bond -- and move <3> is an implicit homolysis hook (the second CH2-R' electron leaving with R'.) required for electron balance, not drawn on the page. RESONANCE (convention C): the product is drawn and encoded in the O+-localized Kekule form CH2=CH-C(CH3)=O+H; the book itself notes the allylic/oxocarbenium delocalization by calling the analogous Equation 8.9 product 'an EE+ ion with additional resonance stabilization'. No m/z and no abundance are printed; m/z 71.0491 is computed for the R = R' = CH3 instantiation."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 128.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_distonic_enol_86", "species_id": "alpha_distonic_enol_ion", "step_id": "step_alpha_beta_cleavage", "observed_mz": 86.0726, "hydrogen_shift": 1, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}, {"peak_id": "peak_conjugated_ion_71", "species_id": "conjugated_oxocarbenium", "step_id": "step_third_bond_cleavage", "observed_mz": 71.0491, "hydrogen_shift": 1, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
